US08426411B2
To a slurry of NaH (60% dispersion in mineral oil, 2.00 g, 49.9 mmol) in NMP (100 mL) was slowly added a solution of 5-bromo-3-(prop-1-ynyl)pyrazin-2-amine (7.05 g, 33.2 mmol) in NMP (20 mL). The reaction mixture was stirred at ambient temperature for about 20 min and then a solution of p-toluenesulfonyl chloride (6.97 g, 36.6 mmol) in NMP (20 mL) was added. The reaction mixture was stirred at ambient temperature for about 20 h and then aqueous HCl (1 N, 100 mL) was added to the reaction mixture. The resulting solids were collected by filtration. The brown solid was triturated with DCM/EtOAc (1:1, 30 mL) and collected by filtration to provide 2-bromo-6-methyl-5-tosyl-5H-pyrrolo[2,3-b]pyrazine (9.0 g, 74%) as a brown solid: LC/MS (Table 1, Method a) Rt=2.68 min; MS m/z: 366, 368 (1:1) (M+H)+.

reactant | NaH | 49.9 mmol, 2.00 g | [H-].[Na+]
reactant | 5-bromo-3-(prop-1-ynyl)pyrazin-2-amine | 33.2 mmol, 7.05 g | BrC=1N=C(C(=NC1)N)C#CC | C7H6BrN3
reactant | p-toluenesulfonyl chloride | 36.6 mmol, 6.97 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | HCl | 1 N, 100 mL | Cl | ClH
solvent | NMP | 100 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
product | 2-bromo-6-methyl-5-tosyl-5H-pyrrolo[2,3-b]pyrazine | 9.0 g, 74% | BrC=1N=C2C(=NC1)N(C(=C2)C)S(=O)(=O)C2=CC=C(C)C=C2 | C14H12BrN3O2S
